US07368454B2
(4-Chloro-phenyl)-(3,4-dihydro-quinazolin-2-yl)-amine
The title compound (MS: m/e=257.9 [M+H+]) was prepared in analogy to example 1 from 2-aminobenzylamine and 4-chlorophenylisothiocyanate.

reactant | 2-aminobenzylamine | NC1=C(CN)C=CC=C1 | C7H10N2
reactant | 4-chlorophenylisothiocyanate | ClC1=CC=C(C=C1)N=C=S | C7H4ClNS
product | (4-Chloro-phenyl)-(3,4-dihydro-quinazolin-2-yl)-amine | ClC1=CC=C(C=C1)NC1=NC2=CC=CC=C2CN1 | C14H12ClN3
